US07094510B2
The following steps are suitable for synthesizing some charge transport materials of this invention involving a linking reaction as described in the following. In the first step, diphenic acid or its derivative is dissolved in large access of concentrated sulfuric acid and the solution is heated at approximately 70° C. for about 10 minutes. The product, 9-fluorenone-4-carboxylic acid or its derivative, is isolated. In the second step, 9-fluorenone-4-carboxylic acid or its derivative is chlorinated with thionyl chloride to form 9-fluorenone-4-carbonyl chloride or its derivative. Then, 9-fluorenone-4-carbonyl chloride or its derivative reacts with a diol, a dithiol, a diamine, a hydroxylamine, a hydroxythiol, or a thioamine in the presence of triethylamine. Non-limiting examples of suitable dithiol are 4,4′-thiobisbenzenethiol, 1,4-benzenedithiol, 1,3-benzenedithiol, sulfonyl-bis(benzenethiol), 2,5-dimecapto-1,3,4-thiadiazole, 1,2-ethanedithiol, 1,3-propanedithiol, 1,4-butanedithiol, 1,5-pentanedithiol, and 1,6-hexanedithiol. Non-limiting examples of suitable diols are 2,2′-bi-7-naphtol, 1,4-dihydroxybenzene, 1,3-dihydroxybenzene, 10,10-bis(4-hydroxyphenyl)anthrone, 4,4′-sulfonyldiphenol, bisphenol, 4,4′-(9-fluorenylidene)diphenol, 1,10-decanediol, 1,5-pentanediol, diethylene glycol, 4.4′-(9-fluorenylidene)-bis(2-phenoxyethanol), bis(2-hydroxyethyl) terephthalate, bis[4-(2-hydroxyethoxy)phenyl] sulfone, hydroquinone-bis (2-hydroxyethyl)ether, and bis(2-hydroxyethyl) piperazine. Non-limiting examples of suitable diamine are diaminoarenes, and diaminoalkanes. Non-limiting examples of suitable hydroxylamine are p-aminophenol and fluoresceinamine. Non-limiting examples of suitable hydroxythiol are monothiohydroquinone and 4-mercapto-1-butanol. Non-limiting example of suitable thioamine is p-aminobenzenethiol. The intermediate product is isolated and dried. Then, the intermediate product is reacted with malononitrile in the presence of piperidine to form the dimeric electron transport material, which can be purified and dried.

reactant | 9-fluorenone-4-carboxylic acid | C1=CC=C2C(=C1)C3=C(C2=O)C=CC=C3C(=O)O | C14H8O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 9-fluorenone-4-carbonyl chloride | C1=CC=C(C=2C3=CC=CC=C3C(C12)=O)C(=O)Cl | C14H7ClO2
